US08497264B2
A vial was charged with neopentyl alcohol (0.579 g, 6.57 mmol) and DMF (6.57 mL). Sodium hydride (60% in mineral oil; 0.263 g, 6.57 mmol) was added and the reaction was stirred for 10 minutes at room temperature. The vial was heated to 100° C. for 5 min. The vial was cooled to rt. (S)-7-bromo-3-chloro-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine (0.500 g, 1.314 mmol) was added in one portion. The vial was sealed and heated to 100° C. three hours. The mixture was diluted with ethyl acetate and water. A small amount of brine was added and the layers were separated. The aq. layer was extracted twice with ethyl acetate. The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The residue was purified by chromatography (0-100% EtOAc/Hexanes) to give 175 mg of (S)—N-(7-bromo-3-(neopentyloxy)-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazine]-5′-yl)formamide as a light yellow solid.

reactant | neopentyl alcohol | 6.57 mmol, 0.579 g | C(C(C)(C)C)O | C5H12O
reactant | DMF | 6.57 mL | CN(C)C=O | C3H7NO
reactant | Sodium hydride | 6.57 mmol, 0.263 g | [H-].[Na+]
reactant | (S)-7-bromo-3-chloro-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine | 1.314 mmol, 0.500 g | BrC=1C=C2C(=CC1)OC=1C=NC(=CC1[C@]21COCC(=N1)N)Cl | C15H11BrClN3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | brine | [Cl-].[Na+].O
product | (S)—N-(7-bromo-3-(neopentyloxy)-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazine]-5′-yl)formamide | 175 mg | BrC=1C=C2C(=CC1)OC=1C=NC(=CC1[C@]21COCC(=N1)NC=O)OCC(C)(C)C | C21H22BrN3O4
